US04666907
Synthesis of 10-acetyl-4-bromo-2,7-dimethoxy-3-hydroxy-10H-phenothiazine
A mixture of 10-acetyl-3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine (2.0 g) in methanol (40 ml) and 1N aqueous sodium hydroxide solution (40 ml) was stirred at room temperature for 5 hours. The mixture was then made slightly acidic with 1N aqueous HCl and after 15 minutes the crude product was filtered. Crystallization from ethyl acetate afforded the pure title compund (600 mg), m.p.: dec 235° C.

reactant | 10-acetyl-3-acetoxy-4-bromo-2,7-dimethoxy-10H-phenothiazine | 2.0 g | C(C)(=O)N1C2=CC=C(C=C2SC=2C(=C(C(=CC12)OC)OC(C)=O)Br)OC | C18H16BrNO5S
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
product | 10-acetyl-4-bromo-2,7-dimethoxy-3-hydroxy-10H-phenothiazine | C(C)(=O)N1C2=CC=C(C=C2SC=2C(=C(C(=CC12)OC)O)Br)OC | C16H14BrNO4S
